US06218579B1
2-(2-nitro-4-methanesulphonyl benzoyl)cyclohexan-1,3-dione
1-(2-Nitro-4-methanesulphonylbenzoyl)-1,2,4-triazole (666 mg), cyclohexan-1,3-dione (254 mg) and potassium carbonate (419 mg, 1.8 mmol, 1.4 equiv) were suspended in acetonitrile (30 ml) and stirred overnight. The acetonitrile was removed under reduced pressure, the residue dissolved in water (100 ml) and acidified with 1 M hydrogen chloride solution to pH 1.5. The solution was extracted with dichloromethane, dried (magnesium sulfate), filtered and the solvent removed under reduced pressure to afford the title compound as a pale yellow solid (0.789g, quant).

reactant | 1-(2-Nitro-4-methanesulphonylbenzoyl)-1,2,4-triazole | 666 mg | [N+](=O)([O-])C1=C(C(=O)N2N=CN=C2)C=CC(=C1)S(=O)(=O)C | C10H8N4O5S
reactant | cyclohexan-1,3-dione | 254 mg | C1(CC(CCC1)=O)=O | C6H8O2
reactant | potassium carbonate | 1.8 mmol, 419 mg, 1.4 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(2-nitro-4-methanesulphonyl benzoyl)cyclohexan-1,3-dione | 0.789g | [N+](=O)([O-])C1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1)S(=O)(=O)C | C14H13NO7S
